US08431593B2
F. 5-{[(1-ADAMANTYLMETHYL)AMINO]CARBONYL}IMIDAZO[1,2-A]PYRIDINE-2-CARBOXYLIC ACID
To a solution of ethyl 5-[(adamantan-1-ylmethyl)carbamoyl]imidazo[1,2-a]pyridine-2-carboxylate (852 mg, 2.3 mmol) in MeOH (10 mL), is added 1 mL of 10 N NaOH aqueous solution. The reaction mixture is heated at 50° C. for 4 h. After cooling to RT, the solvent is removed in vacuo. The residue is diluted with water, and acidified with 2 N HCl aqueous solution until pH=3. Filtration affords the title compound.

reactant | ethyl 5-[(adamantan-1-ylmethyl)carbamoyl]imidazo[1,2-a]pyridine-2-carboxylate | 2.3 mmol, 852 mg | C12(CC3CC(CC(C1)C3)C2)CNC(=O)C2=CC=CC=3N2C=C(N3)C(=O)OCC | C22H27N3O3
reactant | NaOH | 10 N, 1 mL | [OH-].[Na+]
solvent | MeOH | 10 mL | CO | CH4O
product | 5-{[(1-ADAMANTYLMETHYL)AMINO]CARBONYL}IMIDAZO[1,2-A]PYRIDINE-2-CARBOXYLIC ACID | C12(CC3CC(CC(C1)C3)C2)CNC(=O)C2=CC=CC=3N2C=C(N3)C(=O)O | C20H23N3O3
